datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C([O-])C[NH+](CC(=O)[O-])Cc1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])C[NH+](CC(=O)[O-])Cc1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N:10](C)CCCCC(=O)Oc1ccccc1.[NH3+]CC(O)C[NH2+:21][H:20]>>C[N+:10](C)(CCCCC(=O)Oc1ccccc1)[H:20].[NH3+]CC(O)C[NH2:21] 10=20;20,21=21",
"c1ccc2c(N[NH2+:21][H:20])nncc2c1.c1cnc2ccc([O-:10])cc2c1>>c1ccc2c(N[NH2:21])nncc2c1.c1cnc2ccc([O:10][H:20])cc2c1 10=20;20,21=21",
"CC1(C)CCCC(C)(C)[NH+:21]1[H:20].Oc1ccc([O-:10])c2cccnc12>>CC1(C)CCCC(C)(C)[NH:21]1.Oc1ccc([O:10][H:20])c2cccnc12 10=20;20,21=21",
"CC(C)(C(=O)[O:21][H:20])C(C#N)c1ccccc1.CCC[N:10](CCC)CCC>>CC(C)(C(=O)[O-:21])C(C#N)c1ccccc1.CCC[N+:10](CCC)(CCC)[H:20] 10=20;20,21=21",
"C=CC(=O)OCC[N:10](C)C.Cc1ccc([O:21][H:20])c([O-])c1>>C=CC(=O)OCC[N+:10](C)(C)[H:20].Cc1ccc([O-:21])c([O-])c1 10=20;20,21=21",
"CC(=O)NCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(=O)NCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CCCCC[NH:10]CCCCC.O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CCCCC[NH+:10](CCCCC)[H:20].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CC(=O)c1cc(F)cc(NC(=O)c2nnn[n:21]2[H:20])c1O.O=C1C(=NO)CC/C1=N\[O-:10]>>CC(=O)c1cc(F)cc(NC(=O)c2nnn[n-:21]2)c1O.O=C1C(=NO)CC/C1=N\[O:10][H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[NH3+]CCCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH3+]CCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"OCCCc1cc[n:10]cc1.[NH3+]CCc1ccc([O:21][H:20])cc1>>OCCCc1cc[n+:10]([H:20])cc1.[NH3+]CCc1ccc([O-:21])cc1 10=20;20,21=21",
"CC(CO)[NH2:10].CCC(O)C[N+:21](C)(CC(C)O)[H:20]>>CC(CO)[NH2+:10][H:20].CCC(O)C[N:21](C)CC(C)O 10=20;20,21=21",
"CCS(=O)[O-:10].O=C1C=NN([C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)C(=O)[N:21]1[H:20]>>CCS(=O)[O:10][H:20].O=C1C=NN([C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)C(=O)[N-:21]1 10=20;20,21=21",
"COc1ccc(/C=N/[O-:10])cc1.OC(C(F)(F)F)=[O+:21][H:20]>>COc1ccc(/C=N/[O:10][H:20])cc1.OC(C(F)(F)F)=[O:21] 10=20;20,21=21",
"CCCSCC(=O)[O:21][H:20].O=C(O)[C@H]1CC[C@@H](C(=O)[O-:10])[Se]1>>CCCSCC(=O)[O-:21].O=C(O)[C@H]1CC[C@@H](C(=O)[O:10][H:20])[Se]1 10=20;20,21=21",
"CCSC(C)=[O+:21][H:20].Cc1cc(N)ccc1S(=O)(=O)[N-:10]c1nccs1>>CCSC(C)=[O:21].Cc1cc(N)ccc1S(=O)(=O)[N:10](c1nccs1)[H:20] 10=20;20,21=21",
"C=CC(=O)OCC[N:10](C)C.NC(CCC(N)=[N+:21](O)[H:20])=[NH+]O>>C=CC(=O)OCC[N+:10](C)(C)[H:20].NC(CCC(N)=[N:21]O)=[NH+]O 10=20;20,21=21",
"CC(=S)[N:21](c1ccccc1)[H:20].COc1cccc(/C=N/[O-:10])c1>>CC(=S)[N-:21]c1ccccc1.COc1cccc(/C=N/[O:10][H:20])c1 10=20;20,21=21",
"COc1ccc(CC[NH2:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccc(CC[NH2+:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C=Cc1c2[nH]c(c1C)C=C1[C@@H](C)[C@H](CCC(=O)OC)C(=[N+:21]1[H:20])C(CC(=O)OC)=C1NC(=CC3=NC(=C2)C(C)=C3CC)C(C)=C1C(=O)NCC.Cc1nc(-c2ccccc2)oc1[O-:10]>>C=Cc1c2[nH]c(c1C)C=C1[C@@H](C)[C@H](CCC(=O)OC)C(=[N:21]1)C(CC(=O)OC)=C1NC(=CC3=NC(=C2)C(C)=C3CC)C(C)=C1C(=O)NCC.Cc1nc(-c2ccccc2)oc1[O:10][H:20] 10=20;20,21=21",
"CN1C=CC(=[O:10])C=C1.c1ccc(Oc2ccc[n+:21]([H:20])c2)cc1>>CN1C=CC(=[O+:10][H:20])C=C1.c1ccc(Oc2ccc[n:21]c2)cc1 10=20;20,21=21",
"COc1ccc(c2cn3ccsc3[n:10]2)c(OC)c1.Cn1cnc2c1C(=S)NC(=O)[N:21]2[H:20]>>COc1ccc(c2cn3ccsc3[n+:10]2[H:20])c(OC)c1.Cn1cnc2c1C(=S)NC(=O)[N-:21]2 10=20;20,21=21",
"CCOc1cccc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:10]3Cc2ccccc2)c1OC.NC(=O)[C@@H]([C@H](O)C(=O)O)[NH2+:21][H:20]>>CCOc1cccc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:10]3(Cc2ccccc2)[H:20])c1OC.NC(=O)[C@@H]([C@H](O)C(=O)O)[NH2:21] 10=20;20,21=21",
"CNC(=O)c1ccccc1[O:21][H:20].O=C1NC(=O)[N-:10]C(=O)C1=NO>>CNC(=O)c1ccccc1[O-:21].O=C1NC(=O)[N:10]([H:20])C(=O)C1=NO 10=20;20,21=21",
"Cc1cc(-c2ccccc2)nn2cc(C[N+:21]3([H:20])CCOCC3)nc12.c1cc([O-:10])c2cnccc2c1>>Cc1cc(-c2ccccc2)nn2cc(C[N:21]3CCOCC3)nc12.c1cc([O:10][H:20])c2cnccc2c1 10=20;20,21=21",
"COc1ccccc1/C=C/C(=O)[O-:10].COc1nc[n+:21]([H:20])c2ccccc12>>COc1ccccc1/C=C/C(=O)[O:10][H:20].COc1nc[n:21]c2ccccc12 10=20;20,21=21",
"C[NH+](C)CCc1ccccc1[O:21][H:20].O=[N+]([O-])c1ccc([O-])c(C[N:10]2CCCCC2)c1>>C[NH+](C)CCc1ccccc1[O-:21].O=[N+]([O-])c1ccc([O-])c(C[N+:10]2([H:20])CCCCC2)c1 10=20;20,21=21",
"C1COCCOCc2nc([n:21]([H:20])n2)COCCOCCO1.C[C@@H]([C@H](O)c1ccccc1)[NH:10]C>>C1COCCOCc2nc([n-:21]n2)COCCOCCO1.C[C@@H]([C@H](O)c1ccccc1)[NH+:10](C)[H:20] 10=20;20,21=21",
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])C=C1.OCC[O-:10]>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)C=C1.OCC[O:10][H:20] 10=20;20,21=21",
"Nc1ncnc2cn[n-:10]c12.OC1(c2ccco2)C[N+:21]2([H:20])CCC1CC2>>Nc1ncnc2cn[n:10]([H:20])c12.OC1(c2ccco2)C[N:21]2CCC1CC2 10=20;20,21=21",
"COc1c(O)cccc1C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1c(O)cccc1C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCc1ccc(C(C)C)cc1[O:21][H:20].Cc1cc[nH]c1C(=O)[O-:10]>>CCc1ccc(C(C)C)cc1[O-:21].Cc1cc[nH]c1C(=O)[O:10][H:20] 10=20;20,21=21",
